US05177075
2,3-Dihydro-4-methyl-1H-inden-1-one
A solution of 12.0 g (73.2 mmol) of 2-methylbenzenepropanoic acid in 125 ml of methylene chloride was added portion-wise to 500 g of polyphosphoric acid. The mixture was heated for six hours on the steam bath and the resulting orange solution was diluted with 1.5 l of ice. The solid was collected, washed with water, and air dried to give 7.2 g crude material. Recrystallization from ethanol/water gave 5.8 g of the desired product; mp 94°-97°. Extraction of the original diluted reaction mixture with methylene chloride gave an additional lot. Total recovery was 7.7 g (72%).

reactant | 2-methylbenzenepropanoic acid | 73.2 mmol, 12.0 g | CC1=C(C=CC=C1)CCC(=O)O | C10H12O2
solvent | methylene chloride | 125 ml | C(Cl)Cl | CH2Cl2
product | 2,3-Dihydro-4-methyl-1H-inden-1-one | 5.8 g | CC1=C2CCC(C2=CC=C1)=O | C10H10O
